Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3]1(/[N:4]=[N:5]/[H:12])[C:6]([H:13])=[C:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],17.116749815743702
[C:1]1([H:8])([H:9])[C@:2]([C:3]([H:11])([H:12])[H:14])([H:10])[C@@:6]2([H:16])[C:5]([H:15])=[C:4]([H:13])[C@@:7]12[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],68.97504382641755
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:5](=[C:4]=[C:3]([C:6]#[N:7])[H:11])[H:12])([H:9])[H:10])[H:8],88.63169525331341
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4](=[C:5]=[O:6])([H:10])[H:11].[O:1]=[C:2]([C:3]([H:8])([H:9])[H:12])[H:7],71.3949395659857
[C:2]1([H:8])([H:9])[C@@:3]2([H:10])[C:4]([H:11])([H:12])[C@:5]1([H:14])[O:6]2.[O:1]([H:7])[H:13]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],50.01516138331649
[C:1]([H:8])([H:9])([H:10])[H:12].[O:2]=[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:11])[H:13])[C:6]#[N:7]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],87.28977939422951
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[C:4]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:16])\[H:15],54.5588412900253
[C:1]([O:2][N:6]=[C:5]=[C:3]=[O:4])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],19.96250734497839
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:6]([H:13])([H:14])[C:4]([O:5][H:12])=[C:7]1[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],90.18546426259039
[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](=[O:6])([H:14])[H:15]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],26.289934862661493
[N:1]([C:2]1=[C:7]([H:13])[C@@:5]2([O:6][H:12])[C@:3]1([H:10])[N:4]2[H:11])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9],8.230167151904297
[O:1]([C:2](=[C:3]=[N:4][H:7])[H:6])[H:5]>>[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5],4.225200078396597
[C:1](=[O:2])([H:8])[H:10].[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:9])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.21336680557413
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[O:3]=[C:4]([N:5]([C:6]([H:13])([H:14])[H:15])[H:8])[H:12]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.42862074365986
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N-:2][C:3]([C:4](=[O:5])[O+:6]=[C:7]([H:14])[H:16])([H:12])[H:13])([H:8])([H:9])[H:10].[H:11][H:15],90.9393594098692
[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],29.726519334710687
[C:1]([C@:2]12[C:3](=[C:4]=[O:5])[C:6]1=[C:7]2[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],42.78121786022089
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C@@:5]1([H:12])[C:4]([H:10])([H:11])[O:6]1,87.82647735038799
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C-:3]#[O+:4].[C-:5]#[O+:6].[O:1]([C:2]([H:8])([H:9])[H:10])[H:7],61.126355907186
[C:5](#[N:6])[H:9].[O:1](/[C:2](=[C:3](\[O:4][H:11])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],55.751797134657295
[C-:1]([O+:4]=[C:3]([C:2]([H:7])([H:10])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],39.2068011961484
[O:1]([C@@:2]1([H:9])[C:3]([H:10])=[C:4]([O:6][C:5]([H:11])([H:12])[H:13])[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],94.38639369913055
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]#[N:4])(=[C:5]=[O:6])[C:7]([H:12])([H:13])[H:14],71.2405679940164
[C:4](#[N:5])[H:8].[O:1]([N:3]=[C:2]=[N:6][H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],38.348395419538704
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][O:6][C:5](=[C:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9],93.1662270968947
